US07754744B2
Step 4: 4-[tert-Butoxycarbonyl-(5-tert-butoxycarbonyloxy-pyridin-2-yl)-amino]-piperidine-1-carboxylic acid tert-butyl ester
To a well stirred suspension of 4-(5-tert-butoxycarbonyloxy-pyridin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (9.58 g, 24.3 mmol, 1.0 equiv) and N,N-dimethyl-pyridin-4-yl-amine (1.52 g, 12.2 mmol, 0.5 equiv) in acetonitrile (200 mL) at rt was added di-tert-butyl-dicarbonate (23.86 g, 107 mmol, 4.4 equiv) in several small portions and stirring continued for 44 h. The reaction mixture was then poured into cold water and extracted twice with ethyl acetate. The combined organic layers were washed with brine and water, dried over MgSO4, filtered and concentrated by evaporation under reduced pressure. The crude product was purified by column chromatography on silica eluting with a gradient of heptane/ethyl acetate to give 6.17 g (51%) of the title compound as yellow solid. MS (ISP): 494.3 [M+H]+.

reactant | 4-(5-tert-butoxycarbonyloxy-pyridin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 24.3 mmol, 9.58 g, 1.0 equiv | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC=C(C=C1)OC(=O)OC(C)(C)C | C20H31N3O5
reactant | di-tert-butyl-dicarbonate | 107 mmol, 23.86 g, 4.4 equiv | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | O | H2O
catalyst | N,N-dimethyl-pyridin-4-yl-amine | 12.2 mmol, 1.52 g, 0.5 equiv | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | 4-[tert-Butoxycarbonyl-(5-tert-butoxycarbonyloxy-pyridin-2-yl)-amino]-piperidine-1-carboxylic acid tert-butyl ester | 6.17 g, 51% | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C1=NC=C(C=C1)OC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C25H39N3O7
